US08106045B2
To a solution of N2,N2-dimethyl-N1-{4-[(2S)-4-((1R)-1-phenylethyl)morpholin-2-yl]phenyl}glycinamide (0.91 g, 2.5 mmol) and ammonium formate (0.79 g, 12.5 mmol) in tetrahydrofuran (20 ml), methanol (40 ml) and water (7 ml) was added 10% palladium on carbon (wet, 300 mg) and the mixture was stirred at 95° C. for 3 hours. After filtration, the solvent was removed in vacuo and the residue was partitioned between water and dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give N2,N2-dimethyl-N1-{4-[(2S)-morpholin-2-yl]phenyl}glycinamide (0.63 g, 96%) a colorless oil.

reactant | N2,N2-dimethyl-N1-{4-[(2S)-4-((1R)-1-phenylethyl)morpholin-2-yl]phenyl}glycinamide | 2.5 mmol, 0.91 g | CN(CC(=O)NC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1)C | C22H29N3O2
reactant | ammonium formate | 12.5 mmol, 0.79 g | C(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 7 ml | O | H2O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | N2,N2-dimethyl-N1-{4-[(2S)-morpholin-2-yl]phenyl}glycinamide | 0.63 g, 96% | CN(CC(=O)NC1=CC=C(C=C1)[C@H]1CNCCO1)C | C14H21N3O2
